Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
L foot cellulitis with chronic ischemia

 
Major Surgical or Invasive Procedure:
Left Common Iliac Artery Stent

 
History of Present Illness:
This is a ___ year old non-diabetic female smoker who has
extensive history of PVD that has been managed by vascular
surgeons in ___. Patient reports that she developed an area
of redness between her L ___ and ___ toe about ___ weeks ago 
that
has gotten worse. Patient has been seen by both her podiatrist
and vascular surgeon and was put on Cephalexin since ___. She
reports that the pain has become worse and the redness is
spreading. She denied any fever/chills/nausea/vomiting. Pt has 
no
chest pain/short of breath.

Patient reports that she has had problem with her legs for the
past ___ years. She complains that she has lots of pain with
walking and at night. She says that she also has arthritis that
has been bothering her for the past few years. She describes her
pain as vaguely dull and occasionally sharp. It's rather
difficult to discern whether her pain is claudication vs.
arthritis pain. However, she states that she's able to ambulate
more than ___ min with a walker.

 
Past Medical History:
- HTN - HLD - TIA in ___ and stroke in ___ - MI ___ on Plavix
- Carpal tunnel syndrome - Colonic polyps - Intestinal angio - 
dysplasia - Pneumonia - CHF - L kidney infart - Arthritis - 
Jaundice - Uterine fibroid - Benign breast tumor

PSHx:
Right CEA ___, L CEA ___, Redo R CEA ___, Abdominal "vascular 
bypass", CCY, Appendectomy, Hysterectomy, Tonsillectomy, Thumb 
unlock, Cataract surgery, L thumb unlocked, L breast biopsy,
Endoscopy

 
Social History:
___
Family History:
Mother died of pancreatic ca at ___
Daughters with ___ lymphoma
 
Physical Exam:
vss afebrile

Gen: elderly female, alert/oriented x3, NAD
HEENT: supple, trach midline, no jvd, no lymphadenopathy
Chest: clear to auscultation bilat
CV: RRR, no m/r/g
Abd: +bs, soft, obese, mult well-healed scars, no m/t/o
Extrem: no edema of b/l LEs.
 L foot: erythema involved the ___ toe and distal dorsal
surface with tenderness, tenderness at the bottom of L heel with
no visible ulcer/erythema
 R foot: no lesion but tender at bottom of heel

PULSES:
  rad fem pop DP ___
R  p   p   d   d  d
L  p   p   d   d  n

 
Pertinent Results:
___ 06:15AM BLOOD WBC-6.9 RBC-3.53* Hgb-12.1 Hct-35.9* 
MCV-102* MCH-34.2* MCHC-33.6 RDW-13.4 Plt ___
___ 04:27AM BLOOD WBC-4.9 RBC-3.19* Hgb-10.7* Hct-32.8* 
MCV-103* MCH-33.4* MCHC-32.5 RDW-13.6 Plt ___
___ 10:10AM BLOOD WBC-5.9 RBC-3.38* Hgb-11.6* Hct-34.9* 
MCV-103* MCH-34.2* MCHC-33.1 RDW-13.2 Plt ___
___ 10:10AM BLOOD ___ PTT-24.4 ___
___ 06:15AM BLOOD Glucose-128* UreaN-16 Creat-1.2* Na-137 
K-4.1 Cl-102 HCO3-27 AnGap-12
___ 04:27AM BLOOD Glucose-99 UreaN-27* Creat-1.2* Na-142 
K-4.2 Cl-106 HCO3-28 AnGap-12
___ 10:10AM BLOOD Glucose-111* UreaN-30* Creat-1.2* Na-143 
K-4.5 Cl-105 HCO3-29 AnGap-14
___ 06:15AM BLOOD Calcium-10.0 Phos-2.8 Mg-1.6
___ 04:27AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.1
___ 01:53PM URINE Color-Straw Appear-Clear Sp ___
___ 01:53PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR

___ 11:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
___ 10:45 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

Radiology Report CAROTID SERIES COMPLETE Study Date of ___ 
10:28 AM  - pending review

CHEST (PRE-OP PA & LAT) Study Date of ___ 3:29 ___ 
PA AND LATERAL VIEW, CHEST: Lungs are clear without 
consolidation, pleural 
effusion or pneumothorax. There is no pulmonary edema. Densely 
calcified 
bilateral subclavian artery, left more than right is noted. 
There is also 
dense aortic calcifications and aortic arch tortuosity. 
  
IMPRESSION: No acute cardiopulmonary process. Dense vascular 
calcifications. 

 
Brief Hospital Course:
Pt admitted for cellulitis

IV antibiotics

___

OPERATION:
1. Ultrasound-guided puncture of the right common femoral
    artery.
2. Advancement of catheter into the infrarenal abdominal
    aorta.
3. Abdominal aortogram.
4. Ultrasound-guided puncture of the left common femoral
    artery.
5. Stent placement at left common iliac artery.
6. Left lower extremity serial arteriogram.

No complications

c/w IV antibiotics

cellulitis improved

___ / Stable for home

PO antibiotics

Had to have bowel regime to move bowels

 
Medications on Admission:
Atorvastatin 80mg PO daily  
Clopidogrel 75 mg PO daily  
Fexofenadine 60 mg PO BID  
Metoprolol XL 50mg PO daily  
Verapamil 120 mg PO daily  
Furoseminde 20mg PO daily  
Folic acid 1mg PO daily  
Doxazosin 2mg PO daily  
Lisinopril 2.5mg PO daily  

 
Discharge Medications:
1. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. Verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
8. Amoxicillin-Pot Clavulanate 500-125 mg Tablet Sig: One (1) 
Tablet PO Q12H (every 12 hours) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
9. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
11. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six 
(6) hours as needed for pain.  
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Doxazosin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
15. Lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
L foot cellulitis
LLE ischemia 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•Continue Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___